US06670379B2
To a solution of {(R)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-pyridin-3-ylmethyl-ethyl}-carbamic acid tert-butyl ester (0.149 g, 0.34 mmol) in dichloromethane (2 ml) is added trifluoroacetic acid (0.5 ml) and the reaction mixture stirred at ambient temperature for 1 hour. The reaction mixture is evaporated and the residue takeup in hydrochloric acid (1M), the solution basified with sodium hydroxide solution (4M) and the precipitate extracted into dichloromethane. The dichloromethane was dried over magnesium sulphate and evaporated to afford [1-((R)-2-amino-3-pyridin-3-yl-propyl)-piperidin-4-yl]-(4-fluoro-phenyl)-methanone. 1H NMR (400 MHz, CDCl3) δ 1.63-1.85 (m 4H), 1.88-2.00 (m 1H), 2.08-2.32 (m 5H), 2.50 (dd J 13.5 7.9 1H), 2.67 (dd J 13.5 4.9 1H), 2.78-2.98 (m, 2H), 3.04-3.20 (m, 2H), 7.04 (t J 8.8 2H), 7.17 (dd J 6.9 4.9 1H) 7.48 (d J 7.9 1H), 7.88 (dd, J 8.8 5.4 2H), 8.33-8.45 (m, 2H).

reactant | {(R)-2-[4-(4-fluoro-benzoyl)-piperidin-1-yl]-1-pyridin-3-ylmethyl-ethyl}-carbamic acid tert-butyl ester | 0.34 mmol, 0.149 g | C(C)(C)(C)OC(N[C@@H](CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)CC=1C=NC=CC1)=O | C25H32FN3O3
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | [1-((R)-2-amino-3-pyridin-3-yl-propyl)-piperidin-4-yl]-(4-fluoro-phenyl)-methanone | N[C@@H](CN1CCC(CC1)C(=O)C1=CC=C(C=C1)F)CC=1C=NC=CC1 | C20H24FN3O
